US08053440B2
To a solution of 4-bromoethyl-benzoic acid ethyl ester (4.0 g, 16.46 mmol) in THF (30 mL), N-ethyl piperazine (3.76 g, 32.92 mmol) was added and the reaction mixture was stirred for 16 h at room temperature. The reaction mixture was diluted with water and the product was extracted with ethyl acetate. The combined organic layers were washed with water, brine, and dried over Na2SO4. The solvent was removed to give 4.61 g of crude 4-(4-ethyl piperazin-1-ylmethyl)-benzoic acid ethyl ester (100% yield). LAH (0.792 g, 20.86 mmol) was taken up in a 3-neck dry flask and THF (60 mL) was added on cooling. A solution of 4-(4-ethyl piperazin-1-ylmethyl)-benzoic acid ethyl ester (4.61 g, 16.69 mmol) in THF (10 mL) was added slowly on cooling. After completion of addition, the reaction mixture was heated at reflux for 2 h. The reaction mixture was cooled to 0° C., 10% NaOH solution was added, and then water was added. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine and dried over Na2SO4. The solvent was removed to give 2.78 g of crude (4-(4-ethyl piperazin-1-ylmethyl)phenyl)-methanol in 78% yield. To a 3-neck flask containing anhydrous CH2Cl2 (100 mL) cooled to the −78° C. oxalyl chloride (1.8 g, 14.25 mmol) and DMSO (1.85 g, 23.76 mmol) were added and the mixture was stirred for 15 min at −78° C. The solution of (4-(4-ethyl piperazin-1-ylmethyl)phenyl)-methanol (2.78 g, 11.88 mmol) in CH2Cl2 (10 mL) was added at −78° C. and stirred at −78° C. for 1 h. Then Et3N (4.8 g, 47.52 mmol) was added at −78° C. The reaction mixture was allowed to come to room temperature. Water was added and the organic layer was separated. The aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with water, brine and dried over Na2SO4. Then, solvent was removed to give crude 4-(4-ethyl piperazin-1-ylmethyl)benzaldehyde (2.5 g, 91%).

reactant | LAH | 20.86 mmol, 0.792 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(4-ethyl piperazin-1-ylmethyl)-benzoic acid ethyl ester | 16.69 mmol, 4.61 g | C(C)OC(C1=CC=C(C=C1)CN1CCN(CC1)CC)=O | C16H24N2O2
reactant | NaOH | [OH-].[Na+]
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-(4-ethyl piperazin-1-ylmethyl)phenyl)-methanol | 2.78 g, 78% yield | C(C)N1CCN(CC1)CC1=CC=C(C=C1)CO | C14H22N2O
